US08877970B2
To a solution of 1,4-diaminobenzene (0.324 g, 3.0 mmol) in acetonitrile was added 4-isothiocyanatobenzenesulfonamide (0.642 g, 3.0 mmol). The mixture was stirred at room temperature for 3 h. The reaction mixture went clear and a white precipitate formed. The solid was filtered, washed with acetonitrile and dried to afford 4-(3-(4-aminophenyl)thioureido)-benzenesulfonamide as a white sold (0.829 g, 86%). 1H NMR (400 MHz, DMSO) δ 9.65 (s, 2H), 7.71 (d, J=8.8 Hz, 2H), 7.66 (d, J=8.8 Hz, 2H), 7.26 (s, 2H), 7.00 (d, J=8.4 Hz, 2H), 6.52 (d, J=6.8 Hz, 2H), 5.08 (s, 2H); MS (ESI), 323 (M+H)+.

reactant | 1,4-diaminobenzene | 3.0 mmol, 0.324 g | NC1=CC=C(C=C1)N | C6H8N2
reactant | 4-isothiocyanatobenzenesulfonamide | 3.0 mmol, 0.642 g | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(3-(4-aminophenyl)thioureido)-benzenesulfonamide | NC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)S(=O)(=O)N)=S | C13H14N4O2S2
